US08975291B2
6-(4,5-Dihydro-1H-imidazol-2-yl)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide
To a 10-mL microwave tube were added 6-cyano-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide (33 mg, 0.088 mmol), ethylenediamine (1 mL, 14.81 mmol), and phosphorus pentasulfide (0.585 mg, 2.63 μmol), and the mixture was degassed for 5 min. The tube was sealed and the mixture was heated at 120° C. in a microwave. The mixture was concentrated and the residue was purified using reverse-phase HPLC under acidic conditions to give 32 mg of product as off-white solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.46 (m, 6 H), 2.11 (s, 3 H), 2.17 (s, 3 H), 2.24 (s, 3 H), 4.35 (d, J=5.05 Hz, 2 H), 4.75 (quin, J=6.69 Hz, 1 H), 5.87 (s, 1 H), 7.49-7.60 (m, 2H), 8.16-8.26 (m, 2 H), 8.39 (s, 1 H). MS: (M+H)+=419.9.

reactant | 6-cyano-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 0.088 mmol, 33 mg | C(#N)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C22H24N4O2
reactant | ethylenediamine | 14.81 mmol, 1 mL | C(CN)N | C2H8N2
catalyst | phosphorus pentasulfide | 2.63 μmol, 0.585 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 6-(4,5-Dihydro-1H-imidazol-2-yl)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 32 mg | N1C(=NCC1)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C24H29N5O2
